US09260375B2
2-[4-(2-Guanidinoethoxy)benzyl]-3-isopropylmaleic acid dimethyl ester hydrochloride
To a solution of dimethyl 2-[4-{2-[2,3-bis(t-butoxycarbonyl)guanidino]ethoxy}benzyl]-3-isopropylmaleate (23.5 mg, 0.0407 mmol) in methanol (470 μL) was added 5 M hydrochloric acid (407 μL) at room temperature, and the mixture was left standing for 4 h. The reaction mixture was concentrated to dryness to give 17.6 mg of the title compound as oil (quantitative).

reactant | dimethyl 2-[4-{2-[2,3-bis(t-butoxycarbonyl)guanidino]ethoxy}benzyl]-3-isopropylmaleate | 0.0407 mmol, 23.5 mg | C(C)(C)(C)OC(=O)N=C(NCCOC1=CC=C(C/C(/C(=O)OC)=C(/C(=O)OC)\C(C)C)C=C1)NC(=O)OC(C)(C)C | C29H43N3O9
reactant | hydrochloric acid | 5 M, 407 μL | Cl | ClH
solvent | methanol | 470 μL | CO | CH4O
product | 2-[4-(2-Guanidinoethoxy)benzyl]-3-isopropylmaleic acid dimethyl ester hydrochloride | 17.6 mg | Cl.COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)OCCNC(=N)N)=O | InChI=1S/C19H27N3O5.ClH/c1-12(2)16(18(24)26-4)15(17(23)25-3)11-13-5-7-14(8-6-13)27-10-9-22-19(20)21;/h5-8,12H,9-11H2,1-4H3,(H4,20,21,22);1H/b16-15-;
